US06156884
Preparation of Methyl 4-[(6-amino-N-{[3-hydroxy-4-(methoxycarbonyl)-phenyl]methyl}hexanoylamino)methyl]-2-hydroxybenzoate
Dissolved methyl 4-[(N-{[4-(methoxycarbonyl)-3-(phenylmethoxy)phenyl]-methyl}-6-[(phenylmethoxy)carbonylamino]hexanoylamino)methyl]-2-(phenylmethoxy)-benzoate (1.20 g, 1.56 mmole) in 400 mL of methanol and then added conc. HCl (400 uL) and a small scoop of palladium on carbon (10%). Hydrogenated for 4 hours using a Parr shaker at 40 psi. Filtered away the palladium on carbon and removed the methanol in vacuo. Collected 730 mg (95% yield) of the product as the hydrochloride salt.

reactant | methyl 4-[(N-{[4-(methoxycarbonyl)-3-(phenylmethoxy)phenyl]-methyl}-6-[(phenylmethoxy)carbonylamino]hexanoylamino)methyl]-2-(phenylmethoxy)-benzoate | 1.56 mmole, 1.20 g | COC(=O)C1=C(C=C(C=C1)CN(C(CCCCCNC(=O)OCC1=CC=CC=C1)=O)CC1=CC(=C(C(=O)OC)C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C46H48N2O9
reactant | HCl | 400 uL | Cl | ClH
solvent | methanol | 400 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | Methyl 4-[(6-amino-N-{[3-hydroxy-4-(methoxycarbonyl)-phenyl]methyl}hexanoylamino)methyl]-2-hydroxybenzoate | 730 mg, 95% yield | NCCCCCC(=O)N(CC1=CC(=C(C=C1)C(=O)OC)O)CC1=CC(=C(C(=O)OC)C=C1)O | C24H30N2O7
